US05103013
Sec-butyl 2-(1,3-dithietan-2-ylidene)-2-[N-(4-methyl-2-thiazolyl)carbamoyl]acetate
Following the procedure of Example 22, the titled compound was prepared as a white solid (67%) from sec-butyl 2-(1,3-dithietan-2-ylidene)-2-(ethoxycarboxycarbonyl)acetate and 2-amino-4-methylthiazole.

reactant | sec-butyl 2-(1,3-dithietan-2-ylidene)-2-(ethoxycarboxycarbonyl)acetate | S1C(SC1)=C(C(=O)OC(C)CC)C(=O)C(=O)OOCC | C12H16O6S2
reactant | 2-amino-4-methylthiazole | NC=1SC=C(N1)C | C4H6N2S
product | Sec-butyl 2-(1,3-dithietan-2-ylidene)-2-[N-(4-methyl-2-thiazolyl)carbamoyl]acetate | S1C(SC1)=C(C(=O)OC(C)CC)C(NC=1SC=C(N1)C)=O | C13H16N2O3S3
